US07402684B2
(R)-2-[4-(6-Chloro-benzo[1,3]dioxol-5-ylmethoxy)phenoxymethyl]pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 2 in Example 91 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.5 mmol) and 5-chloro-6-chloromethyl-benzo[1,3]dioxole (125 mg, 0.6 mmol) to afford the title product (80 mg, 40% yield).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 150 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 5-chloro-6-chloromethyl-benzo[1,3]dioxole | 0.6 mmol, 125 mg | ClC1=CC2=C(OCO2)C=C1CCl | C8H6Cl2O2
product | (R)-2-[4-(6-Chloro-benzo[1,3]dioxol-5-ylmethoxy)phenoxymethyl]pyrrolidine-1-carboxylic acid tert-butyl ester | 80 mg, 40% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OCC1=CC2=C(OCO2)C=C1Cl | C24H28ClNO6
